US05744475
Synthesis of N-methyl-N'-(5-chlorouracil-6-yl-methyl)thiourea (Compound 81)
A suspension of 0.50 g of 5-chloro-6-chloro-methyluracil and 0.22 g of methyl isothiocyanate in N,N-dimethylformamide (3 ml) was heated at 70° C. for 4 hours under stirring. Water (50 ml) was added to the reaction mixture. A crystallized matter was collected by filtration and then washed with water and methanol, whereby 435 mg of the title compound were obtained (yield: 61%).

reactant | 5-chloro-6-chloro-methyluracil | 0.50 g | ClC=1C(N(C(NC1Cl)=O)C)=O | C5H4Cl2N2O2
reactant | methyl isothiocyanate | 0.22 g | CN=C=S | C2H3NS
reactant | Water | 50 ml | O | H2O
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-methyl-N'-(5-chlorouracil-6-yl-methyl)thiourea | 435 mg, yield: 61% | CNC(=S)NCC1=C(C(NC(N1)=O)=O)Cl | C7H9ClN4O2S
